US08183237B2
1.1 4-(2-Methyl-5-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
In a first flask 0.135 g of palladium acetate (0.135 g, 0.602 mmol) and BINAP (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl) (0.375 g) were suspended in 5 mL of toluene and stirred at 70° C. for 30 min. In a second flask, 2-bromo-1-methyl-4-nitrobenzene (1 g, 4.63 mmol), tert-butyl piperazine-1-carboxylate (1.12 g, 6.02 mmol and sodium tert-butoxide (1.068 g, 11.11 mmol) were added to 5 mL of toluene and stirred for 30 min. at 60° C. To this mixture was added the contents of the first flask, and stirring was continued for 3 h at 60° C. The solvent was evaporated, the residue purified via silica gel chromatography with dichloromethane-methanol (0 to 100%) to yield the title compound (0.145 g).

reactant | BINAP | 0.375 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2-bromo-1-methyl-4-nitrobenzene | 4.63 mmol, 1 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium tert-butoxide | 11.11 mmol, 1.068 g | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.602 mmol, 0.135 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Methyl-5-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.145 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)[N+](=O)[O-])C | C16H23N3O4
